US05047404
In a similar manner to Example 1 a) reaction of 2-propoxybenzoyl chloride (0.79 g), 4-aminonicotinamide (0.55 g) and triethylamine (0.40 g) in acetonitrile (12 ml) afforded a crude product which was recrystallised from ethanol-ether to afford 4-(2-propoxybenzamido)nicotinamide, 0.53 g, m.p. 164°-166° C.

reactant | 2-propoxybenzoyl chloride | 0.79 g | C(CC)OC1=C(C(=O)Cl)C=CC=C1 | C10H11ClO2
reactant | 4-aminonicotinamide | 0.55 g | NC1=CC=NC=C1C(=O)N | C6H7N3O
reactant | triethylamine | 0.40 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 4-(2-propoxybenzamido)nicotinamide | C(CC)OC1=C(C(=O)NC2=CC=NC=C2C(=O)N)C=CC=C1 | C16H17N3O3
